US04158060
A solution of 27 g (0.114 mol) of 1-p-fluorobenzyl-2-nitromethylene-pyrrolidine in 600 ml of methanol is hydrogenated at ambient temperature and atmospheric pressure in the presence of Raney nickel. When the theoretical amount of hydrogen has been absorbed, which requires about one hour, the catalyst is filtered off and the methanol is evaporated from the filtrate. The product which remains is distilled under reduced pressure. 17.2 g (yield: 72%) of 2-aminomethyl-1-p-fluorobenzyl-pyrrolidine are collected as a colourless liquid distilling at 80°-82° under a pressure of 0.01 mm of mercury; this product is used, without further purification, in the next stage of the synthesis.

reactant | 1-p-fluorobenzyl-2-nitromethylene-pyrrolidine | 0.114 mol, 27 g | FC1=CC=C(CN2C(CCC2)=C[N+](=O)[O-])C=C1 | C12H13FN2O2
solvent | methanol | 600 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 2-aminomethyl-1-p-fluorobenzyl-pyrrolidine | 17.2 g, yield: 72% | NCC1N(CCC1)CC1=CC=C(C=C1)F | C12H17FN2
